US08293897B2
Step 6) (5R)-5-(hydroxymethyl)-4-oxaspiro[2.4]heptane
To a mixture of (5R)-5-((tetrahydro-2H-pyran-2-yloxy)methyl)-4-oxaspiro[2.4]heptane (101 mg, 0.48 mmol) in 5 mL of MeOH was added PPTS (12.1 mg, 0.048 mol, Aldrich) at room temperature. The reaction mixture was stirred at 40° C. overnight and then concentrated in vacuo. The residue was purified by a silica gel column chromatography (CH2Cl2) to give the title compound as colorless oil (55 mg, 89%).

reactant | (5R)-5-((tetrahydro-2H-pyran-2-yloxy)methyl)-4-oxaspiro[2.4]heptane | 0.48 mmol, 101 mg | O1C(CCCC1)OC[C@@H]1OC2(CC2)CC1 | C12H20O3
reactant | PPTS | 0.048 mol, 12.1 mg | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
solvent | MeOH | 5 mL | CO | CH4O
product | (5R)-5-(hydroxymethyl)-4-oxaspiro[2.4]heptane | 55 mg, 89% | OC[C@@H]1OC2(CC2)CC1 | C7H12O2
